US08486952B2
4-(2,4-dioxo-2,3,4,5,7,8-hexahydropyrano[3,4-e][1,3]oxazin-8-yl)benzonitrile (Intermediate AA(3)) was reacted as described in Intermediate X(4) with ammonium hydroxide to give 4-(2,4-dioxo-2,3,4,5,7,8-hexahydro-1H-pyrano[4,3-d]pyrimidin-8-yl)benzonitrile (Intermediate AA(4)). LC-MS (M−H)+=270.2.

reactant | 4-(2,4-dioxo-2,3,4,5,7,8-hexahydropyrano[3,4-e][1,3]oxazin-8-yl)benzonitrile | O=C1OC2=C(C(N1)=O)COCC2C2=CC=C(C#N)C=C2 | C14H10N2O4
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 4-(2,4-dioxo-2,3,4,5,7,8-hexahydro-1H-pyrano[4,3-d]pyrimidin-8-yl)benzonitrile | O=C1NC(C2=C(N1)C(COC2)C2=CC=C(C#N)C=C2)=O | C14H11N3O3
